US09421213B2
Sodium hydroxide (Sigma-Aldrich 415413, d=1.515 g/ml, 217 ml of a 50% solution, 4059.84 mmol) was added to N-[({2-chloro-6-[(3R)-3-methylmorpholin-4-yl]pyrimidin-4-yl}methyl)(methyl)oxido-λ6-sulfanylidene]-2,2,2-trifluoroacetamide (27.12 g, 67.66 mmol), 1,2-dibromoethane (23.32 ml, 270.66 mmol) and tetraoctylammonium bromide (3.70 g, 6.77 mmol) in methyl THF (1000 ml) at 20° C. under nitrogen. The resulting mixture was stirred at 20° C. for 24 hours. Further 1,2-dibromoethane (23.32 ml, 270.66 mmol) was added and the mixture was stirred at 20° C. for a further 24 hours. The reaction mixture was diluted with methyl THF (1000 ml) and the aqueous layer separated. The organic layer was diluted further with EtOAc (1000 ml) and washed with water (1500 ml). The organic layer was dried over MgSO4, filtered and then evaporated. The residue was purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to afford (3R)-4-(2-chloro-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine (14.80 g, 66%); 1H NMR (400 MHz, DMSO-d6) 1.21 (3H, d), 1.39 (3H, m), 1.62-1.71 (1H, m), 3.01 (3H, s), 3.43 (1H, tt), 3.58 (1H, dd), 3.72 (1H, d), 3.82 (1H, d), 3.93 (1H, dd), 4.01 (1H, s), 4.38 (1H, s), 6.96 (1H, d); m/z: (ES+) MH+, 331.46 and 333.43. d) Dichlorobis(triphenylphosphine)palladium(II) (0.073 g, 0.10 mmol) was added in one portion to (3R)-4-(2-chloro-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine (1.383 g, 4.18 mmol), 2M aqueous sodium carbonate solution (2.508 ml, 5.02 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (1.665 g, 4.18 mmol) in DME:water 4:1 (100 ml) under nitrogen. The reaction mixture was stirred at 90° C. for 6 hours. The reaction mixture was concentrated and diluted with EtOAc (400 ml), and washed sequentially with water (300 ml) and saturated brine (75 ml). The organic layer was dried over MgSO4, filtered and evaporated onto silica gel (30 g). The resulting powder was purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford (3R)-3-methyl-4-(6-(1-(S-methylsulfonimidoyl)cyclopropyl)-2-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrimidin-4-yl)morpholine (2.174 g, 92%); 1H NMR (400 MHz, CDCl3) 1.37 (3H, d), 1.56 (2H, m), 1.83 (2H, q), 2.37 (4H, s), 3.16 (3H, s), 3.36 (1H, td), 3.60 (1H, td), 3.74 (1H, dd), 3.85 (1H, d), 4.01-4.19 (2H, m), 4.49 (1H, s), 6.95 (1H, d), 7.28 (2H, d, obscured by CDCL3 peak), 7.44 (1H, t), 7.82 (1H, d), 8.02-8.11 (3H, m), 8.52 (1H, d); m/z: (ES+) MH+, 567.11.

reactant | (3R)-4-(2-chloro-6-(1-(S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine | 4.18 mmol, 1.383 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C1(CC1)S(=O)(=N)C | C13H19ClN4O2S
reactant | sodium carbonate | 5.02 mmol, 2M, 2.508 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 4.18 mmol, 1.665 g | CC1(OB(OC1(C)C)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C | C20H23BN2O4S
solvent | DME water | 100 ml | COCCOC.O
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.10 mmol, 0.073 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (3R)-3-methyl-4-(6-(1-(S-methylsulfonimidoyl)cyclopropyl)-2-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrimidin-4-yl)morpholine | 2.174 g, 92% | C[C@H]1N(CCOC1)C1=NC(=NC(=C1)C1(CC1)S(=O)(=N)C)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C27H30N6O4S2
